US07309699B2
N-1-azabicyclo[2.2.2]oct-3-yl-1,1′-biphenyl-4,4′-diamine
3-Quinuclidinone hydrochloride (Aldrich, 1.61 g, 10 mmol) in acetic acid (25 mL) was treated with biphenyl-4,4′-diamine (Aldrich, 0.92 g, 5.0 mmol), Na2SO4 (anhydrous, Aldrich, 7.40 g, 50 mmol) and NaBH(OAc)3 (Aldrich, 3.16 g, 15 mmol) at ambient temperature for 15 hours. The reaction mixture was slowly poured into a flask containing 75 mL of saturated NaHCO3, stirred for 20 minutes, and extracted with ethyl acetate (3×100 mL). The extracts were combined and washed with brine (2×20 mL). The organic phase was concentrated under reduced pressure and the title compound was purified by chromatography (SiO2, CH2Cl2:MeOH:NH3.H2O, 80:20:4, Rf. 0.10) as a solid (0.98 g, yield, 67%). 1H NMR (MeOH-d4, 300 MHz) δ 1.40-1.52 (m, 1H), 1.64-1.84 (m, 2H), 1.89-2.04 (m, 2H), 2.57 (ddd, J=13.9, 5.2, 2.1 Hz, 1H) 2.75-3.00 (m, 4H), 3.27-3.35 (m, 1H), 3.50-3.60 (m, 1H), 6.61-6.69 (m, 2H), 6.80-6.86 (m, 2H), 6.92-6.97 (m, 2H), 7.06-7.13 (m, 2H) ppm. MS (DCl/NH3) m/z 294 (M+H)+.

reactant | 3-Quinuclidinone hydrochloride | 10 mmol, 1.61 g | Cl.N12CC(C(CC1)CC2)=O
reactant | biphenyl-4,4′-diamine | 5.0 mmol, 0.92 g | C1(=CC=C(C=C1)N)C1=CC=C(C=C1)N | C12H12N2
reactant | Na2SO4 | 50 mmol, 7.40 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | NaBH(OAc)3 | 15 mmol, 3.16 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | 75 mL | C(=O)(O)[O-].[Na+]
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
product | N-1-azabicyclo[2.2.2]oct-3-yl-1,1′-biphenyl-4,4′-diamine | N12CC(C(CC1)CC2)NC2=CC=C(C=C2)C2=CC=C(C=C2)N | C19H23N3
